.title KiCad schematic
.include "C:/Users/Jason/GAS-build/repo/hardware/kicad/sim/power-backplane-sim/gas-power-models.lib"
.ac dec 50 100 10Meg
; plots rail ripple rejection: probe v(+15va), v(-15va)
; the bead+LC filter should be >40 dB down at the module's
; 350 kHz switching frequency
XFB500 +15VRAW +15VA BEAD600
C501 +15VA AGND 100u
C502 +15VA AGND 10u
C503 +15VA AGND 100n
XFB501 -15VRAW -15VA BEAD600
C506 -15VA AGND 100n
C504 AGND -15VA 100u
C505 -15VA AGND 10u
V2 GND -15VRAW DC 15 AC 1  
V1 +15VRAW GND DC 15 AC 1  
V3 AGND GND DC 0 
RL1 +15VA AGND 60
RL2 -15VA AGND 60
.end
